US04650810
(iii) 3-(2-Aminoethyl)-1H-indole-5-acetamide hydrochloride
A solution of 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetamide (8.0 g) in ethanol (500 ml) containing hydrazine hydrate (5.76 g), was heated under reflux for 2 h. The solvent was removed by evaporation, the residue was suspended in ethyl acetate (500 ml) and washed with saturated potassium carbonate solution (300 ml). The organic phase was separated and the aqueous phase again extracted with ethyl acetate (200 ml). Evaporation of the dried (Na2SO4) combined organic extracts gave an off-white solid. This was dissolved in ethyl acetate (90 ml) containing methanol (10 ml) and ethereal hydrogen chloride was added until no more solid deposited. Crystallisation from ethyl acetate-methanol gave the title compound as off-white granules (3.2 g) m.p. 225°-7° C.

reactant | 3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetamide | 8.0 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CC(=O)N | C20H17N3O3
reactant | hydrazine hydrate | 5.76 g | O.NN
reactant | methanol | 10 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-Aminoethyl)-1H-indole-5-acetamide hydrochloride | Cl.NCCC1=CNC2=CC=C(C=C12)CC(=O)N | InChI=1S/C12H15N3O.ClH/c13-4-3-9-7-15-11-2-1-8(5-10(9)11)6-12(14)16;/h1-2,5,7,15H,3-4,6,13H2,(H2,14,16);1H
